US05606051
Ethyl 1-(2-t-butyldimethylsilyloxyethyl)-5-methylpyrazole-3-carboxylate
Ethyl 1-(2-hydroxyethyl)-5-methylpyrazole-3-carboxylate (9.39 g, 47.4 mM) in dichloromethane (150 ml) was cooled to below 0° C. and treated with triethylamine (7.19 ml, 52 mM) followed by t-butyldimethylsilyl chloride (7.85 g, 52 mM). The mixture was stirred at room temperature for 3 days. The reaction mixture was washed with brine, dried (MgSO4) and evaporated. Purification on silica geleluting with 50% ethyl acetate in hexane gave the title compound as a pale yellow solid in quantitative yield; νmax (film) 1719, 1472 and 1388 cm-1 ; δH (CDCl3) -0.08 (6H, s), 0.81 (9H, s), 1.38 (3H, t, J7 Hz), 2.33 (3H, s), 3.98 (2H, t, J5 Hz), 4.21 (2H, t, J5 Hz), 4.39 (2H, q, J7 Hz), and 6.53 (1H, s); NH3DCI m/e 313 (100%).

reactant | Ethyl 1-(2-hydroxyethyl)-5-methylpyrazole-3-carboxylate | 47.4 mM, 9.39 g | OCCN1N=C(C=C1C)C(=O)OCC | C9H14N2O3
reactant | triethylamine | 52 mM, 7.19 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilyl chloride | 52 mM, 7.85 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | Ethyl 1-(2-t-butyldimethylsilyloxyethyl)-5-methylpyrazole-3-carboxylate | quantitative yield | [Si](C)(C)(C(C)(C)C)OCCN1N=C(C=C1C)C(=O)OCC | C15H28N2O3Si
